US06949571B2
3-Bromo-1-phenyl-5-pyridin-2-yl-2(1H)-pyridone
1-Phenyl-5-pyridin-2-yl-2(1H)-pyridone (186 g), N-bromosuccinimide (141.7 g) and N,N-dimethylformamide (900 ml) were stirred at room temperature. After 2.5 hr, 6.45 g of NBS was added thereto. After depletion of the reactant was confirmed, the reaction solution was poured into water (4.5 L) under ice-cooling, followed by stirring in a cold-room (approximately 4° C.) overnight. The resulting crystals were collected by filtration under reduced pressure, followed by dissolving in IPA (3.25 L) and H2O (650 ml) under heating. After the complete dissolution was confirmed, the solution was left to cool gradually, and then ice-cooled. Then, the mixture was stirred in a cold-room overnight. The resulting crystals were collected by filtration under reduced pressure and air-dried at 60° C., to give 191 g (81%) of the title compound.

reactant | 1-Phenyl-5-pyridin-2-yl-2(1H)-pyridone | 186 g | C1(=CC=CC=C1)N1C(C=CC(=C1)C1=NC=CC=C1)=O | C16H12N2O
reactant | N-bromosuccinimide | 141.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
catalyst | NBS | 6.45 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | water | 4.5 L | O | H2O
product | 3-Bromo-1-phenyl-5-pyridin-2-yl-2(1H)-pyridone | 191 g, 81% | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
